US06537948B1
A mixture of 2.25 g of 6-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-2-(methoxycarbonyl)methoxy-3-nitropyridine, 0.3 g of 10% palladium/carbon and 40 ml of ethyl acetate was stirred for 3 hours at room temperature under hydrogen atmosphere. The reaction system was purged with nitrogen, then, the reaction solution was filtrated through Celite, and the filtrate was concentrated. The residue was subjected to silica gel column chromatography to obtain 1.38 g of 3-amino-6-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-2-(methoxycarbonyl)methoxypyridine.

reactant | 6-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-2-(methoxycarbonyl)methoxy-3-nitropyridine | 2.25 g | ClC1=C(OC2=CC=C(C(=N2)OCC(=O)OC)[N+](=O)[O-])C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C20H13ClF4N4O8
catalyst | palladium/carbon | 0.3 g | [Pd] | Pd
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
product | 3-amino-6-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-2-(methoxycarbonyl)methoxypyridine | 1.38 g | NC=1C(=NC(=CC1)OC1=C(C=C(C(=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F)Cl)OCC(=O)OC | C20H15ClF4N4O6
